US07790720B2
4-(3-Chloropropoxy)benzamide ax54 (1.0 g, 4.6 mmole, 1 eq) is dissolved in a 1:1 mixture of chloroform and toluene, 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (1.5 g, 3.7 mmole, 0.8 eq) is added. The reaction is stirred overnight at 85° C. Water is then added and the phases are separated. The organic layer is dried over magnesium sulfate and concentrated under reduce pressure. The crude material is purified by chromatography on silicagel (eluent: dichloromethane/methanol/ammonia 98:1.8:0.2) to provide 0.91 g of 4-(3-chloropropoxy)benzenecarbothioamide ax71 as a white solid.

reactant | 4-(3-Chloropropoxy)benzamide | ClCCCOC1=CC=C(C(=O)N)C=C1 | C10H12ClNO2
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 3.7 mmole, 1.5 g, 0.8 eq | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | Water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-chloropropoxy)benzenecarbothioamide | 0.91 g, Yield: 85% | ClCCCOC1=CC=C(C=C1)C(N)=S | C10H12ClNOS
